US06765012B2
3-{[4-(2-Diethylamino-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(2-diethylamino-ethoxy)-phenylamine (775 mg, 1.2 equiv.) and 3-hydroxymethylene-1,3-dihydro-indol-2-one (500 mg, 3.11 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (557 mg, 51%).

reactant | 4-(2-diethylamino-ethoxy)-phenylamine | 775 mg, 1.2 equiv. | C(C)N(CCOC1=CC=C(C=C1)N)CC | C12H20N2O
reactant | 3-hydroxymethylene-1,3-dihydro-indol-2-one | 3.11 mmol, 500 mg, 1 equiv. | OC=C1C(NC2=CC=CC=C12)=O | C9H7NO2
product | 3-{[4-(2-Diethylamino-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 557 mg, 51% | C(C)N(CCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O)CC | C21H25N3O2
